US04451471
4.93 g of 2-methoxycarbonylmethylthio-4,5-bis-phenylthiazole are added dropwise in the course of 30 minutes, while stirring, to a solution, cooled to from 0° to 5°, of 0.575 g of lithium aluminium hydride in 25 ml of diethyl ether. The mixture is then stirred for 1 hour, first of all 0.6 ml and then a further 50 ml of water are cautiously added, the mixture is acidified with N hydrochloric acid, the ether layer is separated off and the aqueous phase is subsequently washed with diethyl ether. The ethereal solutions are combined, dried over magnesium sulphate and concentrated to dryness by evaporation. The residue is dissolved in toluene and purified by chromatography over 90 g of silica gel. The fractions eluted with toluene/ethyl acetate are combined and concentrated by evaporation under reduced pressure. 2-(2-Hydroxyethylthio)-4,5-bis-phenylthiazole having a melting point of 77°-79° is obtained.

reactant | 2-methoxycarbonylmethylthio-4,5-bis-phenylthiazole | 4.93 g | COC(=O)CSC=1SC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C18H15NO2S2
reactant | lithium aluminium hydride | 0.575 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 2-(2-Hydroxyethylthio)-4,5-bis-phenylthiazole | OCCSC=1SC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C17H15NOS2
